US07812020B2
4-(4,6-Dichloro-5-nitropyridin-2-yl)-morpholine
To a solution of 4-(4,6-dichloropyridin-2-yl)-morpholine (3.90 g) in concentrated sulfuric acid (40 mL) was added potassium nitrate (1.80 g) over 10 minutes. The reaction mixture was stirred for 16 hours at ambient temperature and then poured in to crushed ice (500 g). The reaction mixture was made alkaline with concentrated sodium hydroxide and extracted with ethyl acetate (2×100 mL). The combined organic phases were dried over magnesium sulfate and concentrated in vacuo. The crude product was subjected to flash chromatography (SiO2, heptane/ethylacetate 3:1) to furnish 2.26 g (49% yield) of the title compound as a yellow solid. LC-MS (m/z) 278.0 (M+); tR=3.10, (UV, ELSD) 96.5%, 98.8%. 1H NMR (500 MHz, CDCl3): 3.62 (m, 4H), 3.80 (m, 4H), 6.50 (s, 1H).

reactant | 4-(4,6-dichloropyridin-2-yl)-morpholine | 3.90 g | ClC1=CC(=NC(=C1)Cl)N1CCOCC1 | C9H10Cl2N2O
reactant | potassium nitrate | 1.80 g | [N+](=O)([O-])[O-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 40 mL | S(O)(O)(=O)=O | H2O4S
product | 4-(4,6-Dichloro-5-nitropyridin-2-yl)-morpholine | 2.26 g, 49% yield | ClC1=CC(=NC(=C1[N+](=O)[O-])Cl)N1CCOCC1 | C9H9Cl2N3O3
